US08236963B2
A stirred suspension of sodium hydride (60% dispersion in mineral oil, 1.68 g, 42 mmol) in anhydrous N,N-dimethylformamide (140 ml) was treated with the crude 5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione, intermediate 9 (5.0 g, 19.96 mmol). After stirring at ambient temperature for 40 min, the dark orange solution was cooled in an ice-bath and treated, over 30 min., with a solution of t-butyl bromoacetate (3.24 g, 2.26 ml, 18.96 mmol) in anhydrous N,N-dimethylformamide (46 ml). The resultant dark yellow mixture was allowed to come to ambient temperature and stirred for 4 hours. The resultant mixture was diluted with saturated aqueous ammonium chloride (500 ml) and extracted with ethyl acetate (3×200 ml). The combined extracts were dried (MgSO4) and the solvent removed to give the crude (5-Chloro-2,2′,5′-trioxo-spiro[indole-3,3′-pyrrolidin]-1-yl)acetic acid tert-butyl ester which was purified by flash chromatography (silica) eluting with petroleum ether (40-60) containing an increasing amount (0 to 80%) of ethyl acetate. This gave 4.76 g (95%) of a yellow solid.

reactant | sodium hydride | 42 mmol, 1.68 g | [H-].[Na+]
reactant | 5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione | ClC=1C=C2C(=CC1)NC(C21C(NC(C1)=O)=O)=O | C11H7ClN2O3
reactant | t-butyl bromoacetate | 18.96 mmol, 2.26 ml, 3.24 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 46 ml | CN(C=O)C | C3H7NO
solvent | ammonium chloride | 500 ml | [Cl-].[NH4+]
product | (5-Chloro-2,2′,5′-trioxo-spiro[indole-3,3′-pyrrolidin]-1-yl)acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(C2(C(NC(C2)=O)=O)C2=CC(=CC=C12)Cl)=O)=O | C17H17ClN2O5
